US04771046
4-Hydroxyiminopiperidine hydrochloride
5.4 ml of 28% aqueous ammonia solution were added to a mixture of 3.0 g of 4-piperidone hydrochloride monohydrate and 1.63 g of hydroxylamine hydrochloride, and the resulting mixture was stirred for 2 hours at 80° to 90° C. After completion of the reaction, the solvent was distilled off and the crystalline residue was recrystallized from methanol, giving 1.8 g of the title compound.

reactant | ammonia | 5.4 ml | N | H3N
reactant | 4-piperidone hydrochloride monohydrate | 3.0 g | O.Cl.N1CCC(CC1)=O
reactant | hydroxylamine hydrochloride | 1.63 g | Cl.NO
product | 4-Hydroxyiminopiperidine hydrochloride | 1.8 g | Cl.ON=C1CCNCC1 | InChI=1S/C5H10N2O.ClH/c8-7-5-1-3-6-4-2-5;/h6,8H,1-4H2;1H
